US04753960
4-Bromo-1,2-methylenedioxybenzene (4.02 g, 0.020 mole) was dissolved in dry diethylether (100 ml) and cooled to -30° C. under a dry argon atmosphere. At -30° C. to -40° C. n-butyllithium (12 ml, 0.002 mole; 1.85 molar solution in n-hexane) were added with stirring over 15 minutes. After 50 minutes at -30° C. the mixture was cooled to -50° C. and the solution of N-trifluoroacetyl piperidine (3.62 g, 0.020 mole) in dry ether (20 ml) was added over 5 minutes. After 45 minutes at -50° C. the reaction mixture was warmed up to -40° C. for 30 minutes, and to room temperature over another 30 minutes. Saturated aqueous ammonium chloride (25 ml) was added with vigorous stirring. The layers were separated and the organic top layer washed with 10% aqueous ammonium chloride (3× 50 ml) and dried over anhydrous sodium sulfate. After filtration and removal of the ether under reduced pressure the residual liquid was distilled in vacuo to give trifluoromethyl (3,4-methylenedioxyphenyl)-methanone (2.2 g), (50.4%) b.p. 60° C./0.2 mm Hg.

reactant | 4-Bromo-1,2-methylenedioxybenzene | 0.020 mole, 4.02 g | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | n-butyllithium | 0.002 mole, 1.85 molar, 12 ml | C(CCC)[Li]
reactant | N-trifluoroacetyl piperidine | 0.020 mole, 3.62 g | FC(C(=O)N1CCCCC1)(F)F | C7H10F3NO
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | trifluoromethyl (3,4-methylenedioxyphenyl)-methanone | 2.2 g, 50.4% | FC(F)(F)C(=O)C1=CC2=C(C=C1)OCO2 | C9H5F3O3
